### PR TITLE
Exact Inverse Relations: Equations 146, 150 ,156 through 160 with Support Lemmas

### PR DESCRIPTION
**Pull request by MohanadAhmed**
# Exact Inverse Relations: Eq 146, 150, 156 through Eq 160
This Pull Request adds proofs for equations 156 through 160. In addition equations 156 and 158 have "Hermitianized" versions, where the Hermitian operator is used instead of the transpose. These might be more appropriate (or what the reader understands when thinking of comlelx matrices).

The file [`mat_inv_lib.lean`](https://github.com/MohanadAhmed/lean-matrix-cookbook/blob/6e562178ab68a33751ee47ff0e40a047e77ce61c/src/matrix_cookbook/mat_inv_lib.lean)  contains support identities. These are:

1. `is_unit_of_pos_def`: a positive definite matrix is also a unit determinant matrix (basically fancy way of saying determinant is nonzero).
2. `invertible_of_pos_def`: a positive definite matrix is invertible.
3. `A_add_B_P_Bt_pos_if_A_pos_B_pos`: Given $P,R$ positive definite the sum of $ R + BPB\^H$ is positive definite. 
4. `right_mul_inj_of_invertible`: multiplication from the right by invertible matrices is injective.
5. `left_mul_inj_of_invertible`: multiplication from the the left by invertible matrices is injective.
6. `unit_matrix_sandwich`: a `matrix unit unit R` i.e. a matrix with one element interposed in an outerproduct can be removed to the left to be scalar multiplication by that one element.
$$u,v \in \mathbb{C}^{m\times 1}, s \in \mathbb{C}^{1 \times 1} \to [s]_{1,1} (uv\^t) = u \cdot s \cdot v\^t$$ 

 With $\cdot{}$, meaning matrix multiplication and $[A]_{ab}$  meaning element a,b from matrix $A$:

7. `row_mul_mat_mul_col`: a weighted inner product of row and vector columns with a weight matrix in the middle can be regraded as scalar or one element matrix.
$$u\^T A v = u\^T \cdot A \cdot v$$
8. `one_add_row_mul_mat_col_inv` 
$$(1 + c\^T A b)\^{-1} = [(1 + u\^T \cdot A \cdot v)\^{-1}]_{1,1}$$

### CODE REVIEW

File: src/matrix_cookbook/mat_inv_lib.lean [hunk 1]
```diff
@@ -0,0 +1,197 @@
...
+  apply ne_of_lt,
+  apply finset.prod_pos,
+  intros i _,
+  rw hAH.eigenvalues_eq,
+  apply hpos _ (λ h, _),
+  have h_det : (hAH.eigenvector_matrix)ᵀ.det = 0,
+    from matrix.det_eq_zero_of_row_eq_zero i (λ j, congr_fun h j),
+  simpa only [h_det, not_is_unit_zero] using
+    is_unit_det_of_invertible hAH.eigenvector_matrixᵀ,
+end
```
Comment (eric-wieser) [inline src/matrix_cookbook/mat_inv_lib.lean:32]: This follows trivially from [`matrix.pos_def.det_pos`](https://leanprover-community.github.io/mathlib_docs/linear_algebra/matrix/pos_def.html#matrix.pos_def.det_pos) I think; so there's no real point having it.

File: src/matrix_cookbook/mat_inv_lib.lean [hunk 2]
```diff
@@ -0,0 +1,197 @@
...
+
+variables {m n p : Type*}
+variables [fintype m] [fintype n] [fintype p]
+variables [decidable_eq m] [decidable_eq n] [decidable_eq p]
+
+open matrix
+open_locale matrix big_operators
+
+
+lemma is_unit_of_pos_def {A : matrix m m ℂ} (hA: matrix.pos_def A):
```
Comment (eric-wieser) [inline src/matrix_cookbook/mat_inv_lib.lean:14]:
```suggestion
lemma matrix.pos_def.complex_det_is_unit {A : matrix m m ℂ} (hA: matrix.pos_def A): 
```

File: src/matrix_cookbook/mat_inv_lib.lean [hunk 3]
```diff
@@ -0,0 +1,197 @@
...
+    is_unit_det_of_invertible hAH.eigenvector_matrixᵀ,
+end
+
+noncomputable lemma invertible_of_pos_def {A : matrix m m ℂ} {hA: matrix.pos_def A}:
+  invertible A := 
+begin  
+  apply invertible_of_is_unit_det,
+  apply is_unit_of_pos_def,
+  exact hA,
+end
```
Comment (eric-wieser) [inline src/matrix_cookbook/mat_inv_lib.lean:40]: I don't think this one is worth having, if you need it you can use `invertible_of_is_unit_det hA.complex_det_is_unit`

File: src/matrix_cookbook/mat_inv_lib.lean [hunk 4]
```diff
@@ -0,0 +1,197 @@
...
+
+lemma A_add_B_P_Bt_pos_if_A_pos_B_pos 
+  (P : matrix m m ℂ) (R : matrix n n ℂ) (B : matrix n m ℂ)
+  -- [invertible P] [invertible R]
+  (hP: matrix.pos_def P) (hR: matrix.pos_def R) :
+  matrix.pos_def (B⬝P⬝Bᴴ + R) :=
```
Comment (eric-wieser) [inline src/matrix_cookbook/mat_inv_lib.lean:46]: There are two separate lemmas hiding here I think:

* `pos_def.add (hP: matrix.pos_def A) (hR: matrix.pos_def B) : matrix.pos_def (A + B)`
* `pos_def.hermitian_conj (hP: matrix.pos_def P) : matrix.pos_def (B⬝P⬝Bᴴ)`

File: src/matrix_cookbook/mat_inv_lib.lean (hunk 1 above)
Comment (MohanadAhmed) [reply src/matrix_cookbook/mat_inv_lib.lean:32]: It seems this one is a problem. We know because the matrix is positive definite that its determinant is a real number. But the way det is defined means for a $\mathbb{C}$ matrix the determinant is another complex number. Complex numbers have no less than operator as far as I know.

I think that is why the person who wrote `matrix.pos_def.det_pos` avoided it anyway. just to avoid the headache?

So I guess the question is given a matrix that is `is_R_or_C` how do you tell lean hey lean I know this determinant is going to be real number deal with it as such?

File: src/matrix_cookbook/for_mathlib/linear_algebra/matrix/pos_def.lean [hunk 5]
```diff
@@ -0,0 +1,125 @@
...
+  by_cases h: (Bᴴ.mul_vec x ≠ 0), 
+  { exact le_of_lt ((hA.2 (Bᴴ.mul_vec x)) h), },
+  { push_neg at h, 
+    rw h, 
+    simp only [mul_vec_zero, star_zero, zero_dot_product, is_R_or_C.zero_re'], },
+end
+
+lemma pos_def.add_semidef {A: matrix m m R} {B: matrix m m R}
+  (hA: matrix.pos_def A) (hB: matrix.pos_semidef B) : matrix.pos_def (A + B) :=
+begin
```
Comment (eric-wieser) [inline src/matrix_cookbook/for_mathlib/linear_algebra/matrix/pos_def.lean:115]: This one is now in https://github.com/leanprover-community/mathlib4/pull/13750

File: src/matrix_cookbook/3_inverses.lean [hunk 6]
```diff
@@ -64,26 +73,121 @@ lemma eq_155 (A B : matrix m m ℂ) : (A * B)⁻¹ = B⁻¹ * A⁻¹ := mul_inv_
...
+    inv_mul_cancel_right_of_invertible],
+  repeat {rw matrix.mul_assoc (Bᴴ⬝(R + B ⬝ P ⬝ Bᴴ)⁻¹)},
+  rw ← matrix.mul_add (Bᴴ⬝(R + B ⬝ P ⬝ Bᴴ)⁻¹), 
+  rw nonsing_inv_mul_cancel_right,
+
+  assumption',
+
+  apply right_mul_inj_of_invertible,
+  apply left_mul_inj_of_invertible,
+end
```
Comment (eric-wieser) [inline src/matrix_cookbook/3_inverses.lean:142]: I ported this one as #16, using the mathlib-ed versions of many of your theorems; thanks for the proof outline, even though it took over a year to get merged!
